US05190953
1-Azabicyclo[3.2.1]octane-5-methanol
A cooled (0° C.) solution of 1.0 N lithium aluminum hydride/tetrahydrofuran (55 mL, 55 mmol) under nitrogen was treated dropwise with a solution of 1-azabicyclo[3.2.1]octane-5-carboxylic acid ethyl ester (9.17 g, 50 mmol) in anhydrous tetrahydrofuran (20 mL), stirred for 30 minutes at room temperature, refluxed for one hour, and cooled (0° C.). In sequence, water (2.1 mL), 15% sodium hydroxide solution (2.1 mL) and water (6.3 mL) were carefully added dropwise, and the mixture was filtered through Celite (the solid was washed with tetrahydrofuran) and concentrated in vacuo to afford 6.50 g (92%) of viscous, colorless oil, which can be used as is or can be solidified on cooling; mp 44°-47° C.

reactant | lithium aluminum hydride tetrahydrofuran | 55 mmol, 1.0 N, 55 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-].O1CCCC1
reactant | 1-azabicyclo[3.2.1]octane-5-carboxylic acid ethyl ester | 50 mmol, 9.17 g | C(C)OC(=O)C12CCCN(CC1)C2 | C10H17NO2
reactant | water | 2.1 mL | O | H2O
reactant | sodium hydroxide | 2.1 mL | [OH-].[Na+]
reactant | water | 6.3 mL | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-Azabicyclo[3.2.1]octane-5-methanol | N12CCCC(CC1)(C2)CO | C8H15NO
